US07612114B2
5-Methoxy-2-[2-(4-methoxyphenyl)-2-methylpropyl]phenol
Synthesized from 1-(2,4-dimethoxyphenyl)-2-(4-methoxyphenyl)-2-methylpropan-1-one according to an analogous synthetic method to Preparation Example 192 described below, 1-(2-hydroxy-4-methoxyphenyl)-2-(4-methoxyphenyl)-2-methylpropan-1-one (2.9 g) was used according to an analogous synthetic method to Preparation Example 185 described below to provide the title compound (1.9 g).

reactant | 1-(2,4-dimethoxyphenyl)-2-(4-methoxyphenyl)-2-methylpropan-1-one | COC1=C(C=CC(=C1)OC)C(C(C)(C)C1=CC=C(C=C1)OC)=O | C19H22O4
reactant | 1-(2-hydroxy-4-methoxyphenyl)-2-(4-methoxyphenyl)-2-methylpropan-1-one | 2.9 g | OC1=C(C=CC(=C1)OC)C(C(C)(C)C1=CC=C(C=C1)OC)=O | C18H20O4
product | 5-Methoxy-2-[2-(4-methoxyphenyl)-2-methylpropyl]phenol | 1.9 g | COC=1C=CC(=C(C1)O)CC(C)(C)C1=CC=C(C=C1)OC | C18H22O3
